US06849648B2
A 5-Liter round bottom flask was charged with acetic anhydride (488 mL, 5.2 mol) and cooled to 0° C. Formic acid (240 mL, 6.4 mol) was then added at a rate that did not elevate the temperature of the reaction mixture above 10° C. After the formic acid was added, the temperature of the reaction was raised to 50-60° C. and stirred for 3 hours. The reaction was then cooled to 0° C. and 400 mL of THF was added. A solution of 4-bromoaniline (344 g, 2.0 mol) in 800 mL of THF was added dropwise. After the addition was complete, the reaction was allowed to stir at this temperature for 4 hours. The reaction was checked by thin-layer chromatography and found to be complete. The reaction mixture was transferred to a round bottom flask and the solvent was removed in vacuo. When the solvent had been removed, the residue crystallized. The solid was triturated with heptane and filtered. Obtained 396.8 grams of desired N-(4-bromo-phenyl)-formamide. Yield 99.2% The spectral properties of the solid were consistent with the desired material. Step (2): (4-bromo-phenyl)-methyl-amine

reactant | acetic anhydride | 5.2 mol, 488 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Formic acid | 6.4 mol, 240 mL | C(=O)O | CH2O2
reactant | 4-bromoaniline | 2.0 mol, 344 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | N-(4-bromo-phenyl)-formamide | 396.8 grams, Yield 99.2% | BrC1=CC=C(C=C1)NC=O | C7H6BrNO
